data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,287,"CCC[CH2][Sn:1]([CH2]CCC)([CH2]CCC)[CH]1C=CCC(C(CC)O[B-](F)(F)F)[CH+]1.CC[O:2]CC|(2, 1)"
train,pmechdb_split_0,0,7642,"CN(C)C1=CC=[N:1]C=C1.[CH3:2][I:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9821,"COC(=O)[CH:1]([H:2])[C:3](CC1=CC=CC=C1)=[O:4].[OH-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,4428,"CC(C)[N-:1]C(C)C.N#C[CH:2]([N+](=O)[O-])[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,2390,"BrC1=C[CH:1]=[CH:2]O1.C[C+:3]=O|((1, 2), 3)"
train,pmechdb_split_0,0,2692,"C1=CC=[N:1]C=C1.C1=CC=[NH+]C=C1.CC1=CN(C2CC(O[P+:2](OCCC#N)(OC3CC(N4C=C(C)C(=O)NC4=O)OC3COC(C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)[O:3][H:4])C(C)O2)C(=O)NC1=O.[I-]|(1, 4);((4, 3), 2)"
train,pmechdb_split_0,0,4109,"CC[N-:1]CC.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1277,"O=C(O[C:1]1=[C:2](Br)[CH:3]=[CH:4]C=C1)C1=CC=CC=C1.[Br:5][Br:6]|((1, 2), 3);((3, 4), 5);((5, 6), 6)"
train,pmechdb_split_0,0,2,"C[C:1](N)([O-:2])[O:3]C|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,1409,"CCCO.O=C(O)CC(C1=CC=CC=C1)[NH2:1].O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,9562,"C=CC[NH+:1](C(O)C(O)CCC1=CC=CC=C1)[H:2].C=CC[NH2:3].OB(O)C=CC1=CC=CC=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2046,"C#N.N#CC[CH:1]([N-:2]C(=N)N)[OH2+:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,932,"C#C[C+:1]1C=CC=C[C:2]1(C(=C)C1=CC=CC=C1)[H:3].[F-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,6175,"CC1=CC=C([S:1](=O)(=O)[N-:2][N:3]=C(C2=CC=CC=C2)C(C)(C)C)C=C1.O=C(C1=CC=CC=C1)C(F)(F)F.O=C([O-])O|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6089,"CC(=CC[C:1](C1=CC=CC=C1)=[O:2])[NH2:3].CC(=O)O.O|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8298,"CC(=O)O[C:1](CCC=O)=[OH+:2].CC[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9401,"CC1(C)O[B-]([O:1][C:2](C)=[CH:3]C)([O+:4]=[CH:5]C2=CC=CC=C2)OC1(C)C|(1, 2);((2, 3), 5);((5, 4), 4)"
train,pmechdb_split_0,0,3575,"CC(=O)[O-].CC[NH+](CC)CC.COC1=CC(C(C(=O)O[C:1](C)=[O:2])C(C2=CC(O)=C(OC)C=C2)[O-:3])=CC(OC)=C1OC|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3580,"CC(=O)[O:1][Si-:2](C)(C)(C)OS(C)(=O)=O|((2, 1), 1)"
train,pmechdb_split_0,0,8384,"CC(C)(C)[O-:1].CC(C)C1=CC=CC(C(C)C)=C1N1C=C[N+](C2=C(C(C)C)C=CC=C2C(C)C)=C1C(=CC(C1=CC=CC=C1)C(O)(C1=CC=CC=C1)C(F)(F)F)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,3779,"C1=CC=C(C[C:1]([N+]2=CC=C(N3CCCC3)C=C2)([O:2][C:3](NC2CCCCC2)=[N:4]C2CCCCC2)[O-:5])C=C1.CCOC(=O)CC=CCO|(5, 1);((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,10038,"CC(C(C)(C)C)=[N:1]O.O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,7333,"[CH2:1]=[NH2+:2].[Cl-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6364,"CCOC(=O)CC(CC(=O)OCC)(O[B-](F)(F)F)[O+:1](CCO)[H:2].CCOCC.OCC[OH:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,22,"C[C:1](C)([NH:2]C)[OH2+:3].[Cl-]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,8567,"CCC[C:1](OC)=[O:2].[OH-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1678,"O=S(=O)(O)[O:1][H:2].OCCCC=[O:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8556,"CC(=O)[O:1][H:2].O.O=C(OCC1=CC=CC=C1)N1CCC(C2=CC(C3=CC=NC=C3)C(C3=CC=C(F)C=C3)([O-:3])[NH2+]2)CC1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3645,"C#CC=CCC1OC(CC)C=CC=CC1[O-:1].CCCCCCCC[P+:2](Cl)(CCCCCCCC)CCCCCCCC.ClC(Cl)Cl|(1, 2)"
train,pmechdb_split_0,0,2750,"CCOC(=O)C1(C(=O)OCC)C(C)CCC(C#N)(C(OCC)=[O+:1][H:2])C1CC(C)=O.O.[Cl-].[NH3:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4936,"[Cl][Al-]([Cl])([Cl])[Cl+:1][C:2](CCC1=C(Br)C=CC=C1)=[O:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3499,"CC[NH2:1].C[C:2](N)=[OH+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1185,"C1=CC([CH2:1][H:2])=CC=N1.CC(C)[N-:3]C(C)C|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1911,"CC(C)[O][Ti-]([Cl])([Cl])([Cl])[O+:1]=[CH:2]C|((2, 1), 1)"
train,pmechdb_split_0,0,8452,"COC1=CC=C(C([CH:1](C(=O)OC2CCCCC2C2=CC=CC=C2)[Cl:2])[O-:3])C=C1.[H][H].[Na+]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,7163,"CCC1(C2=CC=CC=C2)OCC[O:1]1.[H:2][Br:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3369,"CC(C(=O)[O-:1])C1=CC=CC=C1.C[Si](C)(C)OC(=O)C[P+](CCCCC1=CC=CC=C1)(O[Si](C)(C)C)O[Si:2](C)(C)C.C[Si](C)(C)[NH2+][Si](C)(C)C.[Cl-]|(1, 2)"
train,pmechdb_split_0,0,9552,"C[CH:1]=[C:2](C)[OH:3].O=S(=O)(O)[O:4][H:5]|(3, 2);((2, 1), 5);((5, 4), 4)"
train,pmechdb_split_0,0,5983,"COC1=C(OC)C=C(C23CC[C:1]([O-:2])=[CH:3]C2N(C)C(=O)C3)C=C1.C[NH2+:4][H:5].O|(2, 1);((1, 3), 5);((5, 4), 4)"
train,pmechdb_split_0,0,3895,"COC(=O)C1C(C2=CC=CC=C2)NC(=O)N(C)C1(C1=CC=CC=C1)[OH:1].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5513,"CC1=CCC(C)(CC[CH:1]=[C:2](C)C)[CH+:3]CC1.O.O=P1([O-])[O][Mg][O]P(=O)([O-])O1|((2, 1), 3)"
train,pmechdb_split_0,0,3154,"O[CH:1]=[NH2+:2].[Cl-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9415,"C1CC[NH2+]CC1.CN(C)C=O.CNC(=O)C(CC1=CNC2=C1C=CC=C2)NC(=O)[O:1][CH2:2][C-:3]1C2=C(C=CC=C2)C2=C1C=CC=C2|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3537,"CC1=CC=C(S(=O)(=O)[O-])C=C1.N#CC1=CC(C=[O+:1][H:2])=CC(OC2=C(F)C(CO)=CC=C2Br)=C1.OCCO.[OH2:3]|(3, 2);((2, 1), 1)"
